US07253154B2
(3) 4-Isobutyloxy-3-nitrobenzoic acid
Methyl 4-isobutyloxy-3-nitrobenzoate (2.50 g, 9.87 mmol) was dissolved in a mixture of methanol (10 mL) and 25 THF (10 mL). After addition of 2M aqueous sodium hydroxide (7.5 mL, 15.0 mmol), the solution was stirred for 18 hours at room temperature. The solvent was distilled off under reduced pressure, and were added to the residue water (20 mL) and 3M aqueous hydrochloric acid to adjust 30 the solution to pH 1. The precipitated crystalline product was collected by filtration. The crystalline product was washed with water (20 mL×2) and dried at 50° C. for 4 hours under reduced pressure, to give 2.31 g (yield 98%) of the desired compound in the form of a white crystalline product.

reactant | Methyl 4-isobutyloxy-3-nitrobenzoate | 9.87 mmol, 2.50 g | C(C(C)C)OC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H15NO5
reactant | sodium hydroxide | 15.0 mmol, 2M, 7.5 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Isobutyloxy-3-nitrobenzoic acid | 2.31 g, yield 98% | C(C(C)C)OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO5
